US07157487B2
Methyl (4-amino-2-fluoro-3-hydroxyphenyl)acetate (996 mg, 5.00 mmol) was dissolved in methanol (50 ml). To the resulting solution was added 1-naphthyl isothiocyanate (926 mg, 5.00 mmol). After the resulting mixture was stirred at room temperature for 2 days, mercuric oxide (yellow) (1.08 g, 5.00 mmol) was added thereto. The mixture was stirred at 70° C. for 3.5 hours. After cooling to room temperature, the reaction mixture was filtered through Celite and washed with methanol. The filtrate was distilled under reduced pressure to remove the solvent. The crude crystals thus obtained were recrystallized from chloroform/n-hexane to give methyl (2-(1-naphthylamino)-7-fluoro-6-benzoxazolyl)acetate (1.41 g, 81%) as a pale gray crystalline powder.

reactant | Methyl (4-amino-2-fluoro-3-hydroxyphenyl)acetate | 5.00 mmol, 996 mg | NC1=C(C(=C(C=C1)CC(=O)OC)F)O | C9H10FNO3
reactant | 1-naphthyl isothiocyanate | 5.00 mmol, 926 mg | C1(=CC=CC2=CC=CC=C12)N=C=S | C11H7NS
solvent | methanol | 50 ml | CO | CH4O
product | methyl (2-(1-naphthylamino)-7-fluoro-6-benzoxazolyl)acetate | 1.41 g, 81% | C1(=CC=CC2=CC=CC=C12)NC=1OC2=C(N1)C=CC(=C2F)CC(=O)OC | C20H15FN2O3
